US06329370B1
1-[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-2-morpholin-4-yl-ethanone (Compound 42)
A solution under N2 and stirring of 2-chloro-1-[4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-ethanone (1.3 g, 3.26 mmoles), prepared as described in example 81, in dry CHCl3 (15 ml), at room temperature, was added with morpholine (0.85 g, 9.78 mmoles) and refluxed for 20 hours. The mixture was poured into water/ice, the phases separated and the organic one was washed with water, anhydrified and brought to dryness to give a solid which was crystallised from acetonitrile (45 ml) to give 0.77 g of the title compound (yield: 53%). m.p.: 180-182° C.

reactant | 2-chloro-1-[4-(3,5-dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-ethanone | 3.26 mmoles, 1.3 g | ClCC(=O)N1CC2=CC(=CC=C2C(=N1)CC1=C(C=NC=C1Cl)Cl)OC | C17H14Cl3N3O2
reactant | morpholine | 9.78 mmoles, 0.85 g | N1CCOCC1 | C4H9NO
solvent | CHCl3 | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-1H-phthalazin-2-yl]-2-morpholin-4-yl-ethanone | 0.77 g, yield: 53% | ClC=1C=NC=C(C1CC1=NN(CC2=CC(=CC=C12)OC)C(CN1CCOCC1)=O)Cl | C21H22Cl2N4O3
